US04055595
A mixture of ethyl 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-trifluoromethylpropionate (3.65 g.), N-aqueous sodium hydroxide (100 ml.) and ethanol (50 ml.) is stirred at ambient temperature for 2 days, and then evaporated in vacuo. Water is added, and the mixture is washed with ether. The aqueous phase is acidified with concentrated hydrochloric acid and extracted with ether. The extract is dried with sodium sulphate, evaporated, and the residue is crystallised from light petroleum (b.p. 40°-60° C.) to give 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-trifluoromethylpropionic acid, m.p. 98°-99° C. (1.42 g.).

reactant | ethyl 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-trifluoromethylpropionate | 3.65 g | ClC1=CC=C(COC(C(=O)OCC)(C(F)(F)F)C(F)(F)F)C=C1 | C13H11ClF6O3
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-trifluoromethylpropionic acid | ClC1=CC=C(COC(C(=O)O)(C(F)(F)F)C(F)(F)F)C=C1 | C11H7ClF6O3
